US07851634B2
a) 5-Bromo-3-(3-methoxyprop-1-ynyl)benzofuran
Analogously to residue 9a, 9.31 g of 5-bromobenzofuran-3-yl trifluoromethanesulphonate [440083-74-9] and 3.52 ml of 3-methoxypropyne are reacted. The title compound is obtained as a yellowish oil. Rf=0.43 (1:10 EtOAc-heptane); Rt=5.14 (gradient I).

reactant | 5-bromobenzofuran-3-yl trifluoromethanesulphonate | 9.31 g | FC(S(=O)(=O)OC1=COC2=C1C=C(C=C2)Br)(F)F | C9H4BrF3O4S
reactant | 3-methoxypropyne | 3.52 ml | COCC#C | C4H6O
product | 5-Bromo-3-(3-methoxyprop-1-ynyl)benzofuran | BrC=1C=CC2=C(C(=CO2)C#CCOC)C1 | C12H9BrO2
